US04329347
6-(4-Phenylsulfinyl butoxy)-carbostyril
Prepared analogous to Example 92 from 6-hydroxy-carbostyril and 4-phenylsulfinyl-butyl bromide.

reactant | 6-hydroxy-carbostyril | OC=1C=C2C=CC(NC2=CC1)=O | C9H7NO2
reactant | 4-phenylsulfinyl-butyl bromide | C1(=CC=CC=C1)S(=O)CCCCBr | C10H13BrOS
product | 6-(4-Phenylsulfinyl butoxy)-carbostyril | C1(=CC=CC=C1)S(=O)CCCCOC=1C=C2C=CC(NC2=CC1)=O | C19H19NO3S
